US05700809
1-Benzyl-4-hydroxymethyl-1,2,3,6-tetrahydropyridine
A solution of 4-hydroxymethylpyridine (20 g, 0.183 mol) in anhydrous dimethylformamide (70 ml) was treated with benzyl bromide (24 ml, 0.202 mol) and the mixture was stirred at 100° C. for two hours. The reaction was cooled to room temperature and diluted with absolute ethanol (250 ml). Sodium borohydride (8.7 g, 0.229 mol) was added portionwise and the mixture stirred at reflux for 3 hours. The solvent was evaporated in vacuo and the residue partitioned between dichloromethane and water. The organic phase was separated, dried (MgSO4) and evaporated in vacuo. The residue was chromatographed with 1:1 hexane/ethyl acetate as eluant to the title compound (13 g, 35%) as a lemon yellow solid; δH (CDCl3) 2.12-2.20 (2H, m, tetrahydropyridinyl CH2), 2.60 (2H, t, J 7.5 Hz, tetrahydropyridinyl CH2), 2.96-3.04 (2H, m, tetrahydropyridyl CH2), 3.60 (2H, s, PhCH2N), 4.00-4.04 (2H, m, CH2OH), 5.60-5.66 (1H, m, tetrahydropyridinyl 5-H), and 7.20-7.40 (5H, m, ArH). m/z (CI+, NH3) 204 (M+1)+.

reactant | 4-hydroxymethylpyridine | 0.183 mol, 20 g | OCC1=CC=NC=C1 | C6H7NO
reactant | benzyl bromide | 0.202 mol, 24 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Sodium borohydride | 0.229 mol, 8.7 g | [BH4-].[Na+]
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-Benzyl-4-hydroxymethyl-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CCC(=CC1)CO | C13H17NO
